US06355636B1
N-[5-(3-Bromo-phenylamino)-6-cyano-[1.8]naphthyridin-3-yl]-2-chloro-acetamide
To a solution of 0.74 g (2.2 mmol) of 6-amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile and 0.7 g (5.44 mmol) of disopropylethyl amine in a 7 ml of N-methylpyrrolidone was added with stirring at 0° C. a solution of 0.29 g (2.6 mmol) of chloroacetyl chloride in 5 ml of tetrahydrofuran over 5 min. After 1 hr at 0° C. the mixture was warmed to room temperature. The mixture was poured into saturated sodium bicarbonate. Solid was collected and air dried. The solid was purified by chromatography on silica gel eluting with ethyl acetate-methanol mixtures giving 0.7 g of the title compound as a tan solid: mass spectrum (electrospray, m/e): M+H 416.1, 418.1.

reactant | 6-amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile | 2.2 mmol, 0.74 g | NC=1C=C2C(=C(C=NC2=NC1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
reactant | N-methylpyrrolidone | 7 ml | CN1C(CCC1)=O | C5H9NO
reactant | chloroacetyl chloride | 2.6 mmol, 0.29 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[5-(3-Bromo-phenylamino)-6-cyano-[1.8]naphthyridin-3-yl]-2-chloro-acetamide | 0.7 g | BrC=1C=C(C=CC1)NC1=C2C=C(C=NC2=NC=C1C#N)NC(CCl)=O | C17H11BrClN5O
